US06894170B2
5th Stage: Acidic hydrolysis to (S)-2-methylcysteine hydrochloride (variant b)
18.6 g of 4-methyl-2-phenylthiazoline-4-carboxylic acid were dissolved in 186 ml of 6 N HCl under a nitrogen atmosphere and the solution was then heated under reflux for 16 hours. After cooling to 20° C., the precipitated benzoic acid was filtered off and washed with 2×10 ml of completely demineralized water. The filtrate was extracted three times with 95 ml each of MTBE, then residual MTBE was stripped off by evacuation at room temperature and only then was the water removed by distillation at reduced pressure and at most 40° C. The oil obtained was dissolved in 110 ml of water and again concentrated down to an about 50% strength solution. 300 ml of 2-butanol were added to this concentrated solution and the residual water was entrained by distilling off the azeotrope of 2-butanol and water (total: 250 ml). In the course of this, a water content of 0.6 gg % was achieved in the last distillate fraction. The concentrated solution obtained was further concentrated under reduced pressure, cooled to room temperature and then treated with 200 ml of MTBE. The precipitated crystals were filtered off with suction, washed 2× with 20 ml each of MTBE and dried at 45° C./30 mbar.

reactant | 4-methyl-2-phenylthiazoline-4-carboxylic acid | 18.6 g | CC1(N=C(SC1)C1=CC=CC=C1)C(=O)O | C11H11NO2S
reactant | HCl | 6 N, 186 ml | Cl | ClH
solvent | water | 110 ml | O | H2O
product | (S)-2-methylcysteine hydrochloride | Cl.C[C@@](N)(CS)C(=O)O | InChI=1S/C4H9NO2S.ClH/c1-4(5,2-8)3(6)7;/h8H,2,5H2,1H3,(H,6,7);1H/t4-;/m1./s1
